US06414009B1
3-(5-(1,3-Dioxan-2-yl)furan-2-yl)-1-(4-picolyl)indazole
A solution of 2 g (7.41 mmol) of 3-(5-(1,3-dioxan-2-yl)furan-2-yl)indazole in 10 ml of DMF is added to a suspension of 355 mg of NaH (60 per cent in paraffin) in 10 ml of DMF under argon, and the mixture is stirred at room temperature for 1 hour. 1.46 g of 4-picolyl chloride hydrochloride are then added, followed by 355 mg of NaH (60 percent in paraffin). The mixture is stirred at room temperature for 1 hour and then at 100° C. for 1 hour, introduced into water and extracted with ethyl acetate, the organic phase is dried with sodium sulphate and evaporated in vacuo and the residue is chromatographed over silica gel using toluene/ethyl acetate mixtures as the eluent. 1 g (37% of theory) of an oil is obtained. Rf (SiO2, ethyl acetate): 0.25

reactant | 3-(5-(1,3-dioxan-2-yl)furan-2-yl)indazole | 7.41 mmol, 2 g | O1C(OCCC1)C1=CC=C(O1)C1=NNC2=CC=CC=C12 | C15H14N2O3
reactant | NaH | 355 mg | [H-].[Na+]
reactant | 4-picolyl chloride hydrochloride | 1.46 g | Cl.N1=CC=C(C=C1)CCl
reactant | NaH | 355 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(5-(1,3-Dioxan-2-yl)furan-2-yl)-1-(4-picolyl)indazole | O1C(OCCC1)C1=CC=C(O1)C1=NN(C2=CC=CC=C12)CC1=CC=NC=C1 | C21H19N3O3
